US05403816
To a methanol (80 ml) suspension of 7 g (24.6 mmol) of methyl 6-azido-3-benzyloxypicolinate in a 200 ml round bottomed flask, 1 g of palladium carbon (10%) was added under a nitrogen gas stream, and 7.8 g (123 mmol) of ammonium formate was further added thereto. The mixture was stirred at room temperature for 12 hours. The catalyst was filtered off, and the filtrate was concentrated and dissolved in chloroform. The solvent was washed with water, dried and concentrated. Crystals thereby formed were collected by filtration and washed with diisopropyl ether to obtain 3.57 g (yield: 86.3%) of methyl 6-amino-3-hydroxypicolinate.

reactant | methyl 6-azido-3-benzyloxypicolinate | 24.6 mmol, 7 g | N(=[N+]=[N-])C1=CC=C(C(=N1)C(=O)OC)OCC1=CC=CC=C1 | C14H12N4O3
reactant | ammonium formate | 123 mmol, 7.8 g | C(=O)[O-].[NH4+]
catalyst | palladium carbon | 1 g | [C].[Pd]
solvent | methanol | 80 ml | CO | CH4O
product | methyl 6-amino-3-hydroxypicolinate | 3.57 g, yield: 86.3% | NC1=CC=C(C(=N1)C(=O)OC)O | C7H8N2O3
